US07129238B2
4-(1-Pyrrolidino)benzaldehyde was reacted according to general procedure A using methanol/dioxane as a solvent. The product of this reaction was subsequently coupled with 4-aminomethyl benzonitrile according to general procedure B to give (RS)-N-(4-cyano-benzyl)-2-methoxy-2-(4-pyrrolidin-1-yl-phenyl)-acetamide. Off-white solid. MS 350.4 ([M+H]+)

reactant | 4-(1-Pyrrolidino)benzaldehyde | C1CCN(C1)C2=CC=C(C=C2)C=O | C11H13NO
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
reactant | methanol dioxane | CO.O1CCOCC1
product | (RS)-N-(4-cyano-benzyl)-2-methoxy-2-(4-pyrrolidin-1-yl-phenyl)-acetamide | C(#N)C1=CC=C(CNC(C(C2=CC=C(C=C2)N2CCCC2)OC)=O)C=C1 | C21H23N3O2
